datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](C(C)(C)C)=[O+:12][Si:63](C)(C)C)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([CH:20]=[O:21])C=C1.[S-:10][C:61]#[N:62]>>C1=CC=C([CH:20]([S:10][C:61]#[N:62])[O-:21])C=C1 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11](C)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C=C(C)CCCC[C:11](C)=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>C1C[C:21]([CH2:20][H:10])=[C:22]([O-:23])[O:33]C1.C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:10]=[C:62]2[N:63](C1)CC[NH:73]2.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[C:62]3[N:63](CCC2)CC[NH:73]3)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CN(C)C[C@@H]1CCC[NH:10]1>>CC[O:34][C:32]([C:21]([CH:20]([NH+:10]1CCC[C@H]1CN(C)C)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC[O:82][C:71]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)CCCCCC[C:62]1=[O:61])=[O:72] 10=20
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH3:10])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1>>CC1=CC=C([S:32]([N-:21][C:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])=[O:52])(=[O:33])=[O:43])C=C1 10=20;20,21=21"
"CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC[O:61][C:111]([C:10]([CH:20]1CCC[C:22]([O-:23])=[C:21]1C)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20;20,21=21,22;22,23=23"
C1=CC=C([C:81]([CH-:10][N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)=[O:82])C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81](C2=CC=CC=C2)=[O:82])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10=20
"CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[C:12]1=[C:11](C)[CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14"
"CN1CC[C:20](=[O:21])CC1.C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>CN1CC[C:20]([C:10](C)([C:61](C)=[O:62])[C:71](C)=[O:72])([O-:21])CC1 10=20;20,21=21"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].O=[N+]([O-])C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>C[C:21]([CH:20]([O:10][C:61](C1=CC=C([N+](=O)[O-])C=C1)=[O:62])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
